US05994368
To a mixture of methyl 6-hydroxymethyl-3-methylquinoline-2-carboxylate (193 mg), triethylamine (422 mg) dimethyl sulfoxide (2 ml) and dichloromethane (2 ml) was added portionwise sulfur trioxide pyridine complex (266 mg) in water bath and the mixture was stirred for 2 hours at the same temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin-layer chromatography (n-hexane:ethyl acetate=1:1, V/V) to give methyl 6-formyl-3-methylquinoline-2-carboxylate (149 mg).

reactant | methyl 6-hydroxymethyl-3-methylquinoline-2-carboxylate | 193 mg | OCC=1C=C2C=C(C(=NC2=CC1)C(=O)OC)C | C13H13NO3
reactant | triethylamine | 2 ml, 422 mg | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methyl 6-formyl-3-methylquinoline-2-carboxylate | 149 mg | C(=O)C=1C=C2C=C(C(=NC2=CC1)C(=O)OC)C | C13H11NO3
